US05227145
Synthesis of Cobalt Aluminate Catalyst
In 300 ml of pure water were dissolved 29 g of cobalt nitrate hexahydrate and 75 g of aluminum nitrate nonahydrate. A solution of 38.4 g of ammonium carbonate dissolved in 100 ml of pure water was gradually added thereto with stirring to form a gel-form precipitate. The precipitate was washed with pure water three times, dried at 100° C. overnight and calcined at 600° C. in an air stream. The calcined material was then calcined at 800° C. in a muffle furnace for 3 hours to a cobalt aluminate catalyst having a blue color.

reactant | cobalt nitrate hexahydrate | 29 g | O.O.O.O.O.O.[N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
reactant | aluminum nitrate nonahydrate | 75 g | O.O.O.O.O.O.O.O.O.[N+](=O)([O-])[O-].[Al+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ammonium carbonate | 38.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | Cobalt Aluminate | [O-2].[O-2].[O-2].[O-2].[O-2].[Al+3].[Al+3].[Co+2].[Co+2] | InChI=1S/2Al.2Co.5O/q2*+3;2*+2;5*-2
